US06620829B2
(3S,5S)-3-Aminomethyl-5-methyl-octanoic acid
A procedure similar to the preparation of example 18 (3S,5R)-3-aminomethyl-5-methyl-heptanoic acid was followed giving example 19. 380 mg; 29.0%. 1H NMR (CD3OD) δ 2.90 (dd, J=3.9, 8.8 Hz, 1H), 2.80 (dd, J=7.6, 5.1 Hz, 1H), 2.40 (dd, J=3.2, 12.51 Hz, 1H), 2.20 (dd, J=8.8, 6.8 Hz, 1H), 2.05 (m, 1H), 1.55 (m, 1H), 1.30 (m, 3H), 1.10 (m, 2H), 0.85 (m, 6H); MS, m/z (relative intensity): 187 [M+1H, 100%], 211 [M+1H+CH3CN, 30%].

reactant | (3S,5R)-3-aminomethyl-5-methyl-heptanoic acid | NC[C@H](CC(=O)O)C[C@@H](CC)C | C9H19NO2
reactant | CH3CN | CC#N | C2H3N
product | (3S,5S)-3-Aminomethyl-5-methyl-octanoic acid | NC[C@H](CC(=O)O)C[C@H](CCC)C | C10H21NO2
